US07432287B2
After adding 298 mg (2.16 mmol) of potassium carbonate and 0.12 ml (1.29 mmol) of 2-bromopropane to a solution of 120 mg (0.43 mol) of 3-hydroxy-5-iodobenzoic acid methyl ester in N,N-dimethylformamide (4.0 ml), the reaction mixture was stirred at 80° C. overnight. Water was added to the reaction mixture, extraction was performed with acetic acid ethyl ester, and then the organic layer was washed with brine, dried and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:acetic acid ethyl ester=5:1) to obtain 133 mg of 5-iodo-3-isopropoxybenzoic acid methyl ester (yield: 96%) as a colorless oil.

reactant | potassium carbonate | 2.16 mmol, 298 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 1.29 mmol, 0.12 ml | BrC(C)C | C3H7Br
reactant | 3-hydroxy-5-iodobenzoic acid methyl ester | 0.43 mol, 120 mg | COC(C1=CC(=CC(=C1)I)O)=O | C8H7IO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | 5-iodo-3-isopropoxybenzoic acid methyl ester | 133 mg, yield: 96% | COC(C1=CC(=CC(=C1)I)OC(C)C)=O | C11H13IO3
